US08030311B2
2-(2-Chloro-4-imidazo[4,5-b]pyridin-3-yl-phenyl)-N-[4-(4-isopropyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenyl]-acetamide
The title compound is prepared as described in Example 1 but using (2-chloro-4-imidazo[4,5-b]pyridin-3-yl-phenyl)-acetic acid and 4-(4-isopropyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenylamine (see WO 03/099771). Title compound: ES-MS: 570.9 [M+H]+; single peak at tR=3.46 min (System 1); Rf=0.26 (CH2Cl2/MeOH+1% NH3aq, 9:1).

reactant | (2-chloro-4-imidazo[4,5-b]pyridin-3-yl-phenyl)-acetic acid | ClC1=C(C=CC(=C1)N1C=NC=2C1=NC=CC2)CC(=O)O | C14H10ClN3O2
reactant | 4-(4-isopropyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenylamine | C(C)(C)N1CCN(CC1)CC1=C(C=C(C=C1)N)C(F)(F)F | C15H22F3N3
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 2-(2-Chloro-4-imidazo[4,5-b]pyridin-3-yl-phenyl)-N-[4-(4-isopropyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenyl]-acetamide | ClC1=C(C=CC(=C1)N1C=NC=2C1=NC=CC2)CC(=O)NC2=CC(=C(C=C2)CN2CCN(CC2)C(C)C)C(F)(F)F | C29H30ClF3N6O
